US06753334B2
combining 5-hydrazinoquinoline made by a method of this invention with α-[(dimethylamino)methylene]-β-oxo-cyclopropanepropanoic acid, (αZ)-methyl ester to form 5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carboxylic acid methyl ester; and

reactant | 5-hydrazinoquinoline | N(N)C1=C2C=CC=NC2=CC=C1 | C9H9N3
reactant | α-[(dimethylamino)methylene]-β-oxo-cyclopropanepropanoic acid, (αZ)-methyl ester | CN(C)\C=C(/C(=O)OC)\C(C1CC1)=O | C10H15NO3
product | 5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carboxylic acid methyl ester | COC(=O)C=1C=NN(C1C1CC1)C1=C2C=CC=NC2=CC=C1 | C17H15N3O2
